US08314087B2
tert-Butyl 1-(1-(tert-butyldimethylsilyloxy)-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridin-3-ylcarbamate.
A stirred solution of 1-(1-(tert-butyldimethylsilyloxy)-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridine-3-carboxylic acid (2980 mg, 9.15 mmol), DIPEA (3198 μl, 18.3 mmol), diphenylphosphoryl azide (3.97 mL, 18.3 mmol), and t-butanol (8.60 mL, 9.15 mmol) in Dioxane (10 mL) was heated to reflux under nitrogen for 21 h. The reaction mixture was concentrated under reduced pressure and was purified on silica (80 g) eluting with 10-30% EtOAc/hexane. MS (ESI pos. ion) m/z (MH+): 397. Calc'd exact mass for C20H36N2O4Si: 396. 1H NMR (400 MHz, Chloroform-d) δ ppm −0.04 (s, 6 H) 0.81 (s, 9H) 1.49 (s, 9H) 1.63 (s, 6 H) 4.03 (s, 2 H) 5.98 (s, 1 H) 6.41 (d, J=9.54 Hz, 1 H) 7.15 (dd, J=9.54, 2.51 Hz, 1 H) 7.79 (br. s., 1 H).

reactant | 1-(1-(tert-butyldimethylsilyloxy)-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridine-3-carboxylic acid | 9.15 mmol, 2980 mg | [Si](C)(C)(C(C)(C)C)OCC(C)(C)N1C=C(C=CC1=O)C(=O)O | C16H27NO4Si
reactant | DIPEA | 18.3 mmol, 3198 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | diphenylphosphoryl azide | 18.3 mmol, 3.97 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | t-butanol | 9.15 mmol, 8.60 mL | C(C)(C)(C)O | C4H10O
solvent | Dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl 1-(1-(tert-butyldimethylsilyloxy)-2-methylpropan-2-yl)-6-oxo-1,6-dihydropyridin-3-ylcarbamate | [Si](C)(C)(C(C)(C)C)OCC(C)(C)N1C=C(C=CC1=O)NC(OC(C)(C)C)=O | C20H36N2O4Si
